US03954753
Preparation of 2-aminopyrazine-3-carboxylic acid pyrrolidide
A solution of 10 g. (0.065 mol) of methyl 2-aminopyrazine-3-carboxylate in 100 ml. of methanol and 25 ml. of pyrrolidine was refluxed for 18 hours. The residue obtained after evaporation under reduced pressure was triturated with ether to yield 8.8 g. (70%) of the above-named product as yellow crystals, with m.p. 100°-105°. A second crop of 2.3 g. (18%) with m.p. 95°-105° was obtained from the mother liquors. The analytical sample was recrystallized from 2-propanol. The pale yellow prisms had a melting point of 104°-106°.

reactant | methyl 2-aminopyrazine-3-carboxylate | 0.065 mol | NC1=NC=CN=C1C(=O)OC | C6H7N3O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | 2-aminopyrazine-3-carboxylic acid pyrrolidide | NC1=NC=CN=C1C(=O)N1CCCC1 | C9H12N4O
